US06410585B1
5-[(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-(phenethylamino)propyl]-2-(carboxymethoxy)benzoic Acid
Synthesis was performed performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and phenetylamine (38 uL) according to Method A to give the title compound (57 mg). 1H-NMR (400 MHz, CD3OD) d 7.76 (s, 1H), 7.36 (dd, J=1.9 Hz, J=8.3 Hz, 1H), 7.28-7.15 (m, 10H), 7.00 (d, J=8.7 Hz, 1H), 4.79 (s, 2H), 4.50 (t, J=6.8 Hz, 1H), ), 4.25 (dd, J=5.1 Hz, J=9.4 Hz, 1H), 3.40 (m, 1H), 3.02 (m 2H), 2.90 (dd, J=7.7 Hz, J=13.6 Hz, 1H), 1.36 (s, 9H); (KBr) 3297, 2979, 1728, 1688, 1645 cm−1; HRMS m/z 633.2660 (calc. of monoisotopic mass for C34H39N3O9 gives 633.2686).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | phenetylamine | 38 uL | C1(=CC=C(C=C1)OCC)N | C8H11NO
product | 5-[(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-(phenethylamino)propyl]-2-(carboxymethoxy)benzoic Acid | 57 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(NCCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C34H39N3O9
